US05591762
4'-[[2-n-Propyl-4-methyl-6-[1-(2-carboxy-ethyl)-4-isobutyl-5-methyl-imidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid
Prepared analogously to Example 146 from tert.butyl 4'-[[2-n-propyl-4-methyl-6-(4-isobutyl-5-methyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and ethyl 3-formylamino-propionate/ethyl 3-aminopropionate.

reactant | tert.butyl 4'-[[2-n-propyl-4-methyl-6-(4-isobutyl-5-methyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C=2OC(=C(N2)CC(C)C)C | C37H43N3O3
reactant | ethyl 3-formylamino-propionate ethyl 3-aminopropionate | C(=O)NCCC(=O)OCC.NCCC(=O)OCC
product | 4'-[[2-n-Propyl-4-methyl-6-[1-(2-carboxy-ethyl)-4-isobutyl-5-methyl-imidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N(C(=C(N2)CC(C)C)C)CCC(=O)O | C36H40N4O4
